US06015818
To a solution of methyl 4-carboxy-3-methoxycinnamate (400 mg) in N,N-dimethylformamide were added methylamine hydrochloride (126 mg), I-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (390 mg) and 1-hydroxybenzotriazole (320 mg) at ambient temperature, and the mixture was stirred for 18 hours at the same temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (chloroform: methanol=40:1, v/v) to give methyl 3-methoxy-4-(methylcarbamoyl)cinnamate (319 mg).

reactant | methyl 4-carboxy-3-methoxycinnamate | 400 mg | C(=O)(O)C1=C(C=C(C=CC(=O)OC)C=C1)OC | C12H12O5
reactant | methylamine hydrochloride | 126 mg | Cl.CN
reactant | 1-hydroxybenzotriazole | 320 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 3-methoxy-4-(methylcarbamoyl)cinnamate | 319 mg | COC=1C=C(C=CC(=O)OC)C=CC1C(NC)=O | C13H15NO4
